US06858651B2
In analogy to example 11.5, trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester and 1,5-dibromopentane were reacted to yield trans-[4-(5-Bromo-pentyloxy)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester as yellow oil, MS: 433 (MH+, 1Br, 1Cl).

reactant | trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)O)=O | C14H18ClNO3
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
product | trans-[4-(5-Bromo-pentyloxy)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)OCCCCCBr)=O | C19H27BrClNO3
